US04145419
1.0 g (0.0043 mole) of 4H-imidazo-[2,1-c][1,4]-benzoxazine-2-carbonyl chloride was suspended in dry dichloromethane and 1.31 g (0.01 mole) of N-(2-hydroxyethyl)-morpholine was added thereto. The mixture was warmed at 50° C. for two hours and thin layer chromatography then indicated only a small quantity of starting material remained. The mixture was then washed with water, dried and evaporated. The residue was chromatographed on a silica column using ethyl acetate as eluant. The product thus obtained was finally crystallized from ether to obtain 0.6 g (43% yield) of 2-morpholinoethyl 4H-imidazo-[2,1-c][1,4]-benzoxazine-2-carboxylate with a melting point of 142°-3° C.

reactant | 4H-imidazo-[2,1-c][1,4]-benzoxazine-2-carbonyl chloride | 0.0043 mole, 1.0 g | C1=C(N=C2COC3=C(N21)C=CC=C3)C(=O)Cl | C11H7ClN2O2
reactant | N-(2-hydroxyethyl)-morpholine | 0.01 mole, 1.31 g | OCCN1CCOCC1 | C6H13NO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-morpholinoethyl 4H-imidazo-[2,1-c][1,4]-benzoxazine-2-carboxylate | 0.6 g, 43% yield | C1=C(N=C2COC3=C(N21)C=CC=C3)C(=O)OCCN3CCOCC3 | C17H19N3O4
